US05254578
2,2-Dimethyl-4-(1-oxoisoindolin-2-yl)-6-trifluoromethylsulfonyl-2H-1-benzopyran (Compound No. 2-1)
200 mg of soda talc (Merck Catalog No. 1567) were added to a solution of 200 mg of trans-3,4-dihydro-2,2-dimethyl-4-(1-oxoisoindolin-2-yl)-6-trifluoromethylsulfonyl-2H-1-benzopyran-3-ol (prepared as described in Preparation 13) in 6 ml of dioxane, and the resulting mixture was stirred for 30 minutes whilst heating it on an oil bath kept at 140° C. The reaction mixture was cooled and then freed from insoluble materials by filtration. The solvent was then removed by distillation under reduced pressure. The residue was dissolved in 20 ml of methylene chloride, and the resulting solution was washed with water and with a saturated aqueous solution of sodium chloride, in that order. The solution was dried over anhydrous magnesium sulfate, and then the solvent was removed by distillation under reduced pressure. The oily residue thus obtained was recrystallized from ethyl acetate, to afford 81 mg of the title compound, melting at 110°-115° C.

reactant | trans-3,4-dihydro-2,2-dimethyl-4-(1-oxoisoindolin-2-yl)-6-trifluoromethylsulfonyl-2H-1-benzopyran-3-ol | 200 mg | CC1(OC2=C([C@H]([C@@H]1O)N1C(C3=CC=CC=C3C1)=O)C=C(C=C2)S(=O)(=O)C(F)(F)F)C | C20H18F3NO5S
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | 2,2-Dimethyl-4-(1-oxoisoindolin-2-yl)-6-trifluoromethylsulfonyl-2H-1-benzopyran | 81 mg | CC1(OC2=C(C(=C1)N1C(C3=CC=CC=C3C1)=O)C=C(C=C2)S(=O)(=O)C(F)(F)F)C | C20H16F3NO4S
